US09290519B2
Preparation of 8-(6-(((2,6-diisopropylphenyl)amino)methyl)pyridin-2-yl)-N-phenyl-1,2,3,4-tetrahydronaphthalen-1-amine
A solution of 3.60 g (34.0 mmol) of Na2CO3 in a mixture of 150 ml of water and 45 ml of methanol was purged with argon for 30 min. The obtained solution was added to a mixture of 5.00 g (14.0 mmol) of N-(2-methylphenyl)-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydronaphthalen-1-amine, 4.85 g (14.0 mmol) of N-[(6-bromopyridin-2-yl)methyl]-2,6-diisopropylaniline, 0.80 g (0.70 mmol) of Pd(PPh3)4, and 180 ml of toluene in argon atmosphere. This mixture was stirred for 12 h at 70° C. and then cooled to room temperature. The organic layer was separated, the aqueous layer was extracted with 3×50 ml of ethyl acetate. The combined organic extract was washed with brine, dried over Na2SO4, and evaporated to dryness. The residue was purified by flash chromatography on silica gel 60 (40-63 um, eluent: hexane-ethyl acetate-triethylamine=100:10:1, vol.). Yield 2.50 g (36%) of a yellow oil. Anal. Calc. for C35H41N3: C, 83.45; H, 8.20; N, 8.34. Found: C, 83.69; H, 8.08; N, 8.13.1H NMR (CDCl3): δ 7.62-7.63 (m, 1H, 7-H in tetrahydronaphtalene); 7.55-7.58 (m, 1H, 4-H in Py); 7.52-7.54 (m, 1H, 3-H in Py); 7.41-7.44 (m, 1H, 6-H in tetrahydronaphtalene); 7.37-7.39 (m, 1H, 5-H in Py); 7.15-7.16 (m, 1H, 5-H in tetrahydronaphtalene); 7.03-7.10 (m, 4H, 3,4,5-H in 2,6-diisopropylphenyl and 5-H in 2-methylphenyl); 6.93 (m, 1H, 3-H in 2-methylphenyl); 6.70 (m, 1H, 6-H in 2-methylphenyl); 6.59 (m, 1H, 4-H in 2-methylphenyl); 5.35 (m, 1H, 1-H in tetrahydronaphtalene); 3.94-4.03 (m, 2H, CH2); 3.92-3.94 (m, 1H, 4- or 4′-H in tetrahydronaphtalene); 3.68-3.70 (m, 1H, 4′- or 4-H in tetrahydronaphtalene); 3.30 (sept, J=6.8 Hz, 2H, CH in 2,6-diisopropylphenyl); 3.16-3.24 (m, 1H, 3- or 3′-H in tetrahydronaphtalene); 2.92-3.00 (m, 1H, 3′- or 3-H in tetrahydronaphtalene); 2.38-2.47 (m, 1H, 2- or 2′-H in tetrahydronaphtalene); 2.14-2.22 (m, 1H, 2′- or 2-H in tetrahydronaphtalene); 1.75 (s, 3H, CH3 in 2-methylphenyl); 1.18-1.22 (m, 12H, CH3 in 2,6-diisopropylphenyl).

reactant | Na2CO3 | 34.0 mmol, 3.60 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N-(2-methylphenyl)-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydronaphthalen-1-amine | 14.0 mmol, 5.00 g | CC1=C(C=CC=C1)NC1CCCC2=CC=CC(=C12)B1OC(C(O1)(C)C)(C)C | C23H30BNO2
reactant | N-[(6-bromopyridin-2-yl)methyl]-2,6-diisopropylaniline | 14.0 mmol, 4.85 g | BrC1=CC=CC(=N1)CNC1=C(C=CC=C1C(C)C)C(C)C | C18H23BrN2
reactant | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 150 ml | O | H2O
solvent | methanol | 45 ml | CO | CH4O
catalyst | Pd(PPh3)4 | 0.70 mmol, 0.80 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(6-(((2,6-diisopropylphenyl)amino)methyl)pyridin-2-yl)-N-phenyl-1,2,3,4-tetrahydronaphthalen-1-amine | C(C)(C)C1=C(C(=CC=C1)C(C)C)NCC1=CC=CC(=N1)C=1C=CC=C2CCCC(C12)NC1=CC=CC=C1 | C34H39N3
